US06610714B2
b) 7-methoxy-1,2-dihydronaphthalene
Crude 6-methoxy-1,2,3,4-tetrahydronaphthalen-1-ol (10.3 g, 0.058 mol) was dissolved in 100 ml of toluene and heated in an oil bath (115° C.). P-tolylsulphonic acid (20 mg) was added to the reaction mixture and it was refluxed for about 1 h. The reaction was monitored by GC. The reaction mixture was then cooled and washed with sat. NaHCO3 solution, water and brine and organic layer was dried over Na2SO4. Concentration gave 8.87 g of light brown oil. Yield 96%.

reactant | 6-methoxy-1,2,3,4-tetrahydronaphthalen-1-ol | 0.058 mol, 10.3 g | COC=1C=C2CCCC(C2=CC1)O | C11H14O2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 7-methoxy-1,2-dihydronaphthalene | 8.87 g, Yield 96% | COC1=CC=C2C=CCCC2=C1 | C11H12O
